* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.02000151756947371
Fd1_1 0 s1 V1 1.0000758784736856
Gr1_1_1 0 s1 x1_a1 0 -8858089856330.094
Gr2_1_1 0 s1 x2_a1 0 6554640930280088.0
Gr3_re_1_1 0 s1 x3_re_a1 0 -726737160121744.8
Gr3_im_1_1 0 s1 x3_im_a1 0 380617858412084.6
Gr4_1_1 0 s1 x4_a1 0 -9.814109063667232e+16
Gr5_re_1_1 0 s1 x5_re_a1 0 -1.858844478673529e+19
Gr5_im_1_1 0 s1 x5_im_a1 0 -2.100212359947771e+19
Gr6_re_1_1 0 s1 x6_re_a1 0 -1.707374832961144e+19
Gr6_im_1_1 0 s1 x6_im_a1 0 5.243630772583366e+19
Gr7_1_1 0 s1 x7_a1 0 2.5440945465227338e+19
Gr8_re_1_1 0 s1 x8_re_a1 0 3.005342911096163e+19
Gr8_im_1_1 0 s1 x8_im_a1 0 -1.3534151613341049e+19
Gr9_re_1_1 0 s1 x9_re_a1 0 5.490518506428975e+19
Gr9_im_1_1 0 s1 x9_im_a1 0 -1.5335371419271956e+19
Gr10_re_1_1 0 s1 x10_re_a1 0 1.632241881097312e+19
Gr10_im_1_1 0 s1 x10_im_a1 0 -1.135190353731787e+19
Gr11_re_1_1 0 s1 x11_re_a1 0 -4.8621056365650625e+19
Gr11_im_1_1 0 s1 x11_im_a1 0 -7.610084823746046e+18
Gr12_re_1_1 0 s1 x12_re_a1 0 -4.7437113791840985e+19
Gr12_im_1_1 0 s1 x12_im_a1 0 -5.613488620531118e+18
Gr13_re_1_1 0 s1 x13_re_a1 0 3.782179942407118e+19
Gr13_im_1_1 0 s1 x13_im_a1 0 -6.672242679956983e+17
Gr14_re_1_1 0 s1 x14_re_a1 0 -2.005641761931935e+19
Gr14_im_1_1 0 s1 x14_im_a1 0 -2.873346405253056e+18
Gd1_2 0 s1 p2 0 -9.737852713410713e-08
Fd1_2 0 s1 V2 -4.868926356705357e-06
Gr1_1_2 0 s1 x1_a2 0 43809558783.02029
Gr2_1_2 0 s1 x2_a2 0 -33017442707721.164
Gr3_re_1_2 0 s1 x3_re_a2 0 3617281085216.052
Gr3_im_1_2 0 s1 x3_im_a2 0 -1936922472912.4553
Gr4_1_2 0 s1 x4_a2 0 493060018628136.6
Gr5_re_1_2 0 s1 x5_re_a2 0 9.298964614792528e+16
Gr5_im_1_2 0 s1 x5_im_a2 0 1.043910869278615e+17
Gr6_re_1_2 0 s1 x6_re_a2 0 8.429312928429832e+16
Gr6_im_1_2 0 s1 x6_im_a2 0 -2.614472621678353e+17
Gr7_1_2 0 s1 x7_a2 0 -1.2726023520820011e+17
Gr8_re_1_2 0 s1 x8_re_a2 0 -1.4950566274065837e+17
Gr8_im_1_2 0 s1 x8_im_a2 0 6.764953700340095e+16
Gr9_re_1_2 0 s1 x9_re_a2 0 -2.7333648518046358e+17
Gr9_im_1_2 0 s1 x9_im_a2 0 7.673486978381042e+16
Gr10_re_1_2 0 s1 x10_re_a2 0 -8.14321223459797e+16
Gr10_im_1_2 0 s1 x10_im_a2 0 5.679475669163237e+16
Gr11_re_1_2 0 s1 x11_re_a2 0 2.4197158261142317e+17
Gr11_im_1_2 0 s1 x11_im_a2 0 3.798279549077577e+16
Gr12_re_1_2 0 s1 x12_re_a2 0 2.3622639872348387e+17
Gr12_im_1_2 0 s1 x12_im_a2 0 2.799063258861567e+16
Gr13_re_1_2 0 s1 x13_re_a2 0 -1.8787085257300378e+17
Gr13_im_1_2 0 s1 x13_im_a2 0 3323083607613939.5
Gr14_re_1_2 0 s1 x14_re_a2 0 1.0006082320555238e+17
Gr14_im_1_2 0 s1 x14_im_a2 0 1.4316092554747722e+16
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.0855562149408546e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 5.010056028391885e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.5600646356484095e-11
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 143833979555.0404
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -143833979555.0404
Rp3_im_im_a1 0 x3_im_a1 2.5600646356484095e-11
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 7.504815733356122e-12
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.49457186511755e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 55225506229.42163
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -55225506229.42163
Rp5_im_im_a1 0 x5_im_a1 1.49457186511755e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.001647930737258e-09
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 50882013067.93482
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -50882013067.93482
Rp6_im_im_a1 0 x6_im_a1 1.001647930737258e-09
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 2.899001907197678e-11
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 5.839838957207129e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 42819383837.131966
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -42819383837.131966
Rp8_im_im_a1 0 x8_im_a1 5.839838957207129e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 1.0296995050844473e-09
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 35788402199.51906
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -35788402199.51906
Rp9_im_im_a1 0 x9_im_a1 1.0296995050844473e-09
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 7.902600213846775e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 30599706066.320457
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -30599706066.320457
Rp10_im_im_a1 0 x10_im_a1 7.902600213846775e-10
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 7.736738392794064e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 22306894204.66485
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -22306894204.66485
Rp11_im_im_a1 0 x11_im_a1 7.736738392794064e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 7.464109821077146e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 18124275204.81393
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -18124275204.81393
Rp12_im_im_a1 0 x12_im_a1 7.464109821077146e-10
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 8.19785134523029e-08
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 7176934419.768986
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -7176934419.768986
Rp13_im_im_a1 0 x13_im_a1 8.19785134523029e-08
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 1.936519641633454e-09
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 12829185296.550081
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -12829185296.550081
Rp14_im_im_a1 0 x14_im_a1 1.936519641633454e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -9.737852713410713e-08
Fd2_1 0 s2 V1 -4.868926356705357e-06
Gr1_2_1 0 s2 x1_a1 0 43809558229.43374
Gr2_2_1 0 s2 x2_a1 0 -33017453833707.582
Gr3_re_2_1 0 s2 x3_re_a1 0 3617283286816.0747
Gr3_im_2_1 0 s2 x3_im_a1 0 -1936922946608.244
Gr4_2_1 0 s2 x4_a1 0 493060222496248.6
Gr5_re_2_1 0 s2 x5_re_a1 0 9.298969347375192e+16
Gr5_im_2_1 0 s2 x5_im_a1 0 1.0439115015287397e+17
Gr6_re_2_1 0 s2 x6_re_a1 0 8.429318868183694e+16
Gr6_im_2_1 0 s2 x6_im_a1 0 -2.6144740807327318e+17
Gr7_2_1 0 s2 x7_a1 0 -1.2726029953287325e+17
Gr8_re_2_1 0 s2 x8_re_a1 0 -1.4950575085779478e+17
Gr8_im_2_1 0 s2 x8_im_a1 0 6.764957208207609e+16
Gr9_re_2_1 0 s2 x9_re_a1 0 -2.7333664373377027e+17
Gr9_im_2_1 0 s2 x9_im_a1 0 7.673490844364203e+16
Gr10_re_2_1 0 s2 x10_re_a1 0 -8.143216721263891e+16
Gr10_im_2_1 0 s2 x10_im_a1 0 5.6794785424122904e+16
Gr11_re_2_1 0 s2 x11_re_a1 0 2.419717238750562e+17
Gr11_im_2_1 0 s2 x11_im_a1 0 3.7982816058753064e+16
Gr12_re_2_1 0 s2 x12_re_a1 0 2.3622653453400915e+17
Gr12_im_2_1 0 s2 x12_im_a1 0 2.7990648145857524e+16
Gr13_re_2_1 0 s2 x13_re_a1 0 -1.878709676034317e+17
Gr13_im_2_1 0 s2 x13_im_a1 0 3323085512654818.5
Gr14_re_2_1 0 s2 x14_re_a1 0 1.0006087803932323e+17
Gr14_im_2_1 0 s2 x14_im_a1 0 1.4316100679813632e+16
Gd2_2 0 s2 p2 0 0.020001467898354837
Fd2_2 0 s2 V2 1.0000733949177418
Gr1_2_2 0 s2 x1_a2 0 -11339524081258.23
Gr2_2_2 0 s2 x2_a2 0 8649099548574175.0
Gr3_re_2_2 0 s2 x3_re_a2 0 -936969755214583.4
Gr3_im_2_2 0 s2 x3_im_a2 0 511603657714592.7
Gr4_2_2 0 s2 x4_a2 0 -1.2881144329542077e+17
Gr5_re_2_2 0 s2 x5_re_a2 0 -2.418889949535083e+19
Gr5_im_2_2 0 s2 x5_im_a2 0 -2.702466720883429e+19
Gr6_re_2_2 0 s2 x6_re_a2 0 -2.171339505565704e+19
Gr6_im_2_2 0 s2 x6_im_a2 0 6.784305123842352e+19
Gr7_2_2 0 s2 x7_a2 0 3.310771778727004e+19
Gr8_re_2_2 0 s2 x8_re_a2 0 3.873353542426518e+19
Gr8_im_2_2 0 s2 x8_im_a2 0 -1.7588489693263712e+19
Gr9_re_2_2 0 s2 x9_re_a2 0 7.08497736585806e+19
Gr9_im_2_2 0 s2 x9_im_a2 0 -1.9965472790505173e+19
Gr10_re_2_2 0 s2 x10_re_a2 0 2.113883822882836e+19
Gr10_im_2_2 0 s2 x10_im_a2 0 -1.4775768174893191e+19
Gr11_re_2_2 0 s2 x11_re_a2 0 -6.2707216486758834e+19
Gr11_im_2_2 0 s2 x11_im_a2 0 -9.86414291918272e+18
Gr12_re_2_2 0 s2 x12_re_a2 0 -6.124578913606678e+19
Gr12_im_2_2 0 s2 x12_im_a2 0 -7.264002956122552e+18
Gr13_re_2_2 0 s2 x13_re_a2 0 4.861783492999766e+19
Gr13_im_2_2 0 s2 x13_im_a2 0 -8.616409769069256e+17
Gr14_re_2_2 0 s2 x14_re_a2 0 -2.597751722166956e+19
Gr14_im_2_2 0 s2 x14_im_a2 0 -3.7130734343920067e+18
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.0855562149408546e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 5.010056028391885e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.5600646356484095e-11
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 143833979555.0404
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -143833979555.0404
Rp3_im_im_a2 0 x3_im_a2 2.5600646356484095e-11
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 7.504815733356122e-12
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.49457186511755e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 55225506229.42163
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -55225506229.42163
Rp5_im_im_a2 0 x5_im_a2 1.49457186511755e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.001647930737258e-09
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 50882013067.93482
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -50882013067.93482
Rp6_im_im_a2 0 x6_im_a2 1.001647930737258e-09
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 2.899001907197678e-11
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 5.839838957207129e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 42819383837.131966
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -42819383837.131966
Rp8_im_im_a2 0 x8_im_a2 5.839838957207129e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 1.0296995050844473e-09
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 35788402199.51906
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -35788402199.51906
Rp9_im_im_a2 0 x9_im_a2 1.0296995050844473e-09
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 7.902600213846775e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 30599706066.320457
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -30599706066.320457
Rp10_im_im_a2 0 x10_im_a2 7.902600213846775e-10
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 7.736738392794064e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 22306894204.66485
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -22306894204.66485
Rp11_im_im_a2 0 x11_im_a2 7.736738392794064e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 7.464109821077146e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 18124275204.81393
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -18124275204.81393
Rp12_im_im_a2 0 x12_im_a2 7.464109821077146e-10
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 8.19785134523029e-08
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 7176934419.768986
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -7176934419.768986
Rp13_im_im_a2 0 x13_im_a2 8.19785134523029e-08
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 1.936519641633454e-09
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 12829185296.550081
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -12829185296.550081
Rp14_im_im_a2 0 x14_im_a2 1.936519641633454e-09
.ENDS s_equivalent
