* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.15386934151197734
Fd1_1 0 s1 V1 -7.693467075598868
Gr1_1_1 0 s1 x1_a1 0 67360976667762.12
Gr2_1_1 0 s1 x2_a1 0 -16888541154679.42
Gr3_1_1 0 s1 x3_a1 0 17966931463265.645
Gr4_re_1_1 0 s1 x4_re_a1 0 59907928194.6411
Gr4_im_1_1 0 s1 x4_im_a1 0 -22388337989.029644
Gr5_1_1 0 s1 x5_a1 0 -14315879656596.508
Gr6_1_1 0 s1 x6_a1 0 14192484548036.064
Gr7_1_1 0 s1 x7_a1 0 -21357766252011.07
Gr8_1_1 0 s1 x8_a1 0 -14467396202673.646
Gr9_1_1 0 s1 x9_a1 0 31592485289432.484
Gr10_re_1_1 0 s1 x10_re_a1 0 -81759279587.02194
Gr10_im_1_1 0 s1 x10_im_a1 0 -109296137612.75737
Gr11_re_1_1 0 s1 x11_re_a1 0 -173914036.71116865
Gr11_im_1_1 0 s1 x11_im_a1 0 180673414.96543252
Gr12_re_1_1 0 s1 x12_re_a1 0 43912750364.70603
Gr12_im_1_1 0 s1 x12_im_a1 0 46012555407.021454
Gr13_re_1_1 0 s1 x13_re_a1 0 573997601985.6393
Gr13_im_1_1 0 s1 x13_im_a1 0 -1156257959342.302
Gd1_2 0 s1 p2 0 -0.3290765903258386
Fd1_2 0 s1 V2 -16.45382951629193
Gr1_1_2 0 s1 x1_a2 0 144366777973139.1
Gr2_1_2 0 s1 x2_a2 0 -34210556331863.59
Gr3_1_2 0 s1 x3_a2 0 36152958604653.18
Gr4_re_1_2 0 s1 x4_re_a2 0 116529025116.5898
Gr4_im_1_2 0 s1 x4_im_a2 0 -47663548661.910065
Gr5_1_2 0 s1 x5_a2 0 -27947371815531.457
Gr6_1_2 0 s1 x6_a2 0 27472737917206.79
Gr7_1_2 0 s1 x7_a2 0 -39895038583483.82
Gr8_1_2 0 s1 x8_a2 0 -26142004410931.098
Gr9_1_2 0 s1 x9_a2 0 58248334363524.35
Gr10_re_1_2 0 s1 x10_re_a2 0 -166182838490.53143
Gr10_im_1_2 0 s1 x10_im_a2 0 -192732066252.6167
Gr11_re_1_2 0 s1 x11_re_a2 0 -231268649.1556997
Gr11_im_1_2 0 s1 x11_im_a2 0 394624471.5793609
Gr12_re_1_2 0 s1 x12_re_a2 0 88337510233.70062
Gr12_im_1_2 0 s1 x12_im_a2 0 79973854209.23447
Gr13_re_1_2 0 s1 x13_re_a2 0 957095177018.9745
Gr13_im_1_2 0 s1 x13_im_a2 0 -2079455807124.6714
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 3.8463481649954016e-14
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 6.249418623887984e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 7.942053462348128e-13
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 8.218422028390127e-12
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 450497520497.212
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -450497520497.212
Rp4_im_im_a1 0 x4_im_a1 8.218422028390127e-12
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 2.605801362221469e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 3.546143939458881e-12
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.0038798305071694e-11
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.9456354629775503e-11
Cx9_a1 x9_a1 0 1.0
Gx9_a1 0 x9_a1 p1 0 0.07071067811865475
Fx9_a1 0 x9_a1 V1 3.5355339059327378
Rp9_a1 0 x9_a1 1.3359212680231292e-11
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 5.832954503127478e-11
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 52419319076.045
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -52419319076.045
Rp10_im_im_a1 0 x10_im_a1 5.832954503127478e-11
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 1.0923806880911636e-09
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 60376767751.77048
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -60376767751.77048
Rp11_im_im_a1 0 x11_im_a1 1.0923806880911636e-09
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 7.777766544425404e-11
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 53709654476.25288
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -53709654476.25288
Rp12_im_im_a1 0 x12_im_a1 7.777766544425404e-11
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 2.9892896108313864e-11
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 15870463451.849607
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -15870463451.849607
Rp13_im_im_a1 0 x13_im_a1 2.9892896108313864e-11
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.3290765903258386
Fd2_1 0 s2 V1 -16.45382951629193
Gr1_2_1 0 s2 x1_a1 0 144366777973139.25
Gr2_2_1 0 s2 x2_a1 0 -34210556331865.105
Gr3_2_1 0 s2 x3_a1 0 36152958604655.3
Gr4_re_2_1 0 s2 x4_re_a1 0 116529025116.60829
Gr4_im_2_1 0 s2 x4_im_a1 0 -47663548661.89544
Gr5_2_1 0 s2 x5_a1 0 -27947371815536.45
Gr6_2_1 0 s2 x6_a1 0 27472737917212.984
Gr7_2_1 0 s2 x7_a1 0 -39895038583500.695
Gr8_2_1 0 s2 x8_a1 0 -26142004410945.934
Gr9_2_1 0 s2 x9_a1 0 58248334363552.61
Gr10_re_2_1 0 s2 x10_re_a1 0 -166182838490.56458
Gr10_im_2_1 0 s2 x10_im_a1 0 -192732066252.7715
Gr11_re_2_1 0 s2 x11_re_a1 0 -231268649.15590885
Gr11_im_2_1 0 s2 x11_im_a1 0 394624471.5794917
Gr12_re_2_1 0 s2 x12_re_a1 0 88337510233.72261
Gr12_im_2_1 0 s2 x12_im_a1 0 79973854209.30602
Gr13_re_2_1 0 s2 x13_re_a1 0 957095177019.7865
Gr13_im_2_1 0 s2 x13_im_a1 0 -2079455807125.9155
Gd2_2 0 s2 p2 0 0.2864334071342394
Fd2_2 0 s2 V2 14.321670356711971
Gr1_2_2 0 s2 x1_a2 0 -125801074216163.86
Gr2_2_2 0 s2 x2_a2 0 28887213305455.168
Gr3_2_2 0 s2 x3_a2 0 -30408802266058.19
Gr4_re_2_2 0 s2 x4_re_a2 0 -96043907481.6981
Gr4_im_2_2 0 s2 x4_im_a2 0 41365873927.37208
Gr5_2_2 0 s2 x5_a2 0 23085630211599.066
Gr6_2_2 0 s2 x6_a2 0 -22575606634377.734
Gr7_2_2 0 s2 x7_a2 0 32046557539799.38
Gr8_2_2 0 s2 x8_a2 0 20533205737147.62
Gr9_2_2 0 s2 x9_a2 0 -46385514606421.055
Gr10_re_2_2 0 s2 x10_re_a2 0 140627872903.61133
Gr10_im_2_2 0 s2 x10_im_a2 0 148782249779.7564
Gr11_re_2_2 0 s2 x11_re_a2 0 136480655.1599256
Gr11_im_2_2 0 s2 x11_im_a2 0 -347931649.3161733
Gr12_re_2_2 0 s2 x12_re_a2 0 -74311414583.02087
Gr12_im_2_2 0 s2 x12_im_a2 0 -61083654152.611275
Gr13_re_2_2 0 s2 x13_re_a2 0 -708022243669.9579
Gr13_im_2_2 0 s2 x13_im_a2 0 1627886458675.8867
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 3.8463481649954016e-14
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 6.249418623887984e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 7.942053462348128e-13
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 8.218422028390127e-12
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 450497520497.212
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -450497520497.212
Rp4_im_im_a2 0 x4_im_a2 8.218422028390127e-12
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 2.605801362221469e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 3.546143939458881e-12
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.0038798305071694e-11
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.9456354629775503e-11
Cx9_a2 x9_a2 0 1.0
Gx9_a2 0 x9_a2 p2 0 0.07071067811865475
Fx9_a2 0 x9_a2 V2 3.5355339059327378
Rp9_a2 0 x9_a2 1.3359212680231292e-11
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 5.832954503127478e-11
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 52419319076.045
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -52419319076.045
Rp10_im_im_a2 0 x10_im_a2 5.832954503127478e-11
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 1.0923806880911636e-09
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 60376767751.77048
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -60376767751.77048
Rp11_im_im_a2 0 x11_im_a2 1.0923806880911636e-09
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 7.777766544425404e-11
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 53709654476.25288
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -53709654476.25288
Rp12_im_im_a2 0 x12_im_a2 7.777766544425404e-11
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 2.9892896108313864e-11
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 15870463451.849607
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -15870463451.849607
Rp13_im_im_a2 0 x13_im_a2 2.9892896108313864e-11
.ENDS s_equivalent
